US06323176B1
1,2,3,4-Tetra-O-Acetyl-6-Azido-6-Deoxy-β-D-Glucopyranose
A 100 mL round bottom flask was charged with 40 mL anhydrous dimethylformamide, sodium azide (2.19 g, 33.6 mmol), and crude 1,2,3,4-tetra-O-acetyl-6-deoxy-6-methanesulfonyl-β-D-glucopyranose (1.9374 g, 4.54 mmol). The resulting homogeneous solution was heated to 70° C. and allowed to react for 10 hours. The reaction was then diluted with 200 mL of ethyl acetate and washed with copious amounts of water. The organic layer was dried over magnesium sulfate, filtered and the solvent removed in vacuo. The resulting brown solid was purified by column chromatography over silica gel to yield 668.3 mg of the title compound (39.5%). MS (FAB) calculated for C14H19N3O9 (M—OCOCH3) 314.1, found 314.1.

reactant | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
reactant | sodium azide | 33.6 mmol, 2.19 g | [N-]=[N+]=[N-].[Na+]
reactant | 1,2,3,4-tetra-O-acetyl-6-deoxy-6-methanesulfonyl-β-D-glucopyranose | 4.54 mmol, 1.9374 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CS(=O)(=O)C | C15H22O11S
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1,2,3,4-Tetra-O-Acetyl-6-Azido-6-Deoxy-β-D-Glucopyranose | 668.3 mg, 39.5% | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CN=[N+]=[N-] | C14H19N3O9
